US05117057
Preparation of N'-t-butyl-N-benzoyl-N'-(2-thiophenecarbonyl)hydrazine
N'-t-butyl-N-benzoylhydrazine (1.0 g) was dissolved in 20 ml toluene. 50% aqueous sodium hydroxide (1.25 g) was added followed by 2-thiophenecarbonylchloride (0.76 g). The mixture was stirred at room temperature for 14 hours. The solid product, N'-t-butyl-N-benzoyl-N'-(2thiophenecarbonyl)hydrazine, was removed by filtration and washed with water. m.p. >200° C.

reactant | N'-t-butyl-N-benzoylhydrazine | 1.0 g | C(C)(C)(C)NNC(C1=CC=CC=C1)=O | C11H16N2O
reactant | sodium hydroxide | 1.25 g | [OH-].[Na+]
reactant | 2-thiophenecarbonylchloride | 0.76 g | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N'-t-butyl-N-benzoyl-N'-(2-thiophenecarbonyl)hydrazine | C(C)(C)(C)N(NC(C1=CC=CC=C1)=O)C(=O)C=1SC=CC1 | C16H18N2O2S
